US07288654B2
A mixture of potassium thiocyanate (119.2 g), dihydroxyacetone dimer (73.9 g) and propylamine hydrochloride (100 g) was portionwise added to a mixed solution of acetic acid (89 ml) and 1-butanol (590 ml). The mixture was stirred at room temperature for 1 day, and then water (118 ml) was added thereto, followed by stirring for 30 minutes. The precipitated solid was collected by filtration, and further washed with water (180 ml) twice and hexane once. The resulting solid was dried under reduced pressure to give 5-hydroxymethyl-2-mercapto-1-propylimidazole (71.2 g) as colorless crystals.

reactant | potassium thiocyanate | 119.2 g | [S-]C#N.[K+]
reactant | dihydroxyacetone dimer | 73.9 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | propylamine hydrochloride | 100 g | Cl.C(CC)N
reactant | acetic acid | 89 ml | C(C)(=O)O | C2H4O2
solvent | water | 118 ml | O | H2O
solvent | 1-butanol | 590 ml | C(CCC)O | C4H10O
product | 5-hydroxymethyl-2-mercapto-1-propylimidazole | 71.2 g | OCC1=CN=C(N1CCC)S | C7H12N2OS
